US08703953B2
A stirred solution of tert-butyl 2-((diphenylmethylene)amino)-5,5,5-trifluoropentanoate (800 mg, 2.023 mmol) in 50% aqueous hydrochloric acid (0.123 mL, 2.023 mmol) was heated to reflux at 100° C. for 8 h. The reaction mixture was cooled to rt and washed with ethyl acetate (10 mL). The aqueous layer was concentrated under reduced pressure to afford 2-amino-5,5,5-trifluoropentanoic acid hydrochloride (400 mg, 1.82 mmol, 90% yield) as white solid. LCMS (ESI) m/e 171.7 [(M+H)+, calcd for C5H7F3O2, 172.1]; LC/MS retention time (method H): tR=0.80 min.

reactant | tert-butyl 2-((diphenylmethylene)amino)-5,5,5-trifluoropentanoate | 2.023 mmol, 800 mg | C1(=CC=CC=C1)C(C1=CC=CC=C1)=NC(C(=O)OC(C)(C)C)CCC(F)(F)F | C22H24F3NO2
reactant | hydrochloric acid | 2.023 mmol, 0.123 mL | Cl | ClH
product | 2-amino-5,5,5-trifluoropentanoic acid hydrochloride | 1.82 mmol, 400 mg, 90% yield | Cl.NC(C(=O)O)CCC(F)(F)F | InChI=1S/C5H8F3NO2.ClH/c6-5(7,8)2-1-3(9)4(10)11;/h3H,1-2,9H2,(H,10,11);1H
